US05998429
B. N-(4-Methylphenyl)carbamic Acid 1-azabicyclo[2.2.2]octan-3-yl Ester
3-Quinuclidinol and 4-tolyl isocyanate were used. Filtration of the precipitated solid from the cooled reaction mixture afforded the title compound (93%) as a white solid: mp 186.0-187.5° C.; FAB LRMS m /z (relative intensity, %) 262 (21), 261 ([MH+ ], 100).

reactant | 3-Quinuclidinol | N12CC(C(CC1)CC2)O | C7H13NO
reactant | 4-tolyl isocyanate | C1(=CC=C(C=C1)N=C=O)C | C8H7NO
product | N-(4-Methylphenyl)carbamic Acid 1-azabicyclo[2.2.2]octan-3-yl Ester | 93% | N12CC(C(CC1)CC2)OC(NC2=CC=C(C=C2)C)=O | C15H20N2O2
